US09303023B2
N-(1H-Pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a solution of 5-(m-tolyl)oxazole-4-carboxylic acid (11.18 g) in DCM (65 mL), HOBT (11.15 g, 0.083 mol) and EDC (15.8 g, 0.083 mol) was added at 0° C. This suspension was stirred at this temperature for 10 min, then it was added to a suspension was of 1H-pyrazol-4-amine (5.48 g) and DIPEA (17.65 mL) in DCM (50 mL). The resulting mixture was allowed to warm to rt and was stirred at rt for 18 h. Percipitation of the desired compound was obtained by the addition of water. The solid was filtered and dried to yield the title compound. LC-MS conditions B: tR=0.63 min, [M+H]+=269.13.

reactant | 5-(m-tolyl)oxazole-4-carboxylic acid | 11.18 g | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
reactant | HOBT | 0.083 mol, 11.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.083 mol, 15.8 g
reactant | 1H-pyrazol-4-amine | 5.48 g | N1N=CC(=C1)N | C3H5N3
reactant | DIPEA | 17.65 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 65 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(1H-Pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | N1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C14H12N4O2
